US07863332B2
4.0 g (15.5 mmol, 1.5 eq) of pinacol diborane are added to a mixture of 3.4 g (10 mmol, 1 eq) of 1-(3-bromophenyl)-3-heptyl-1-methylurea and 3.0 g (31 mmol, 3 eq) of potassium acetate, in the presence of 380 mg (0.5 mmol, 5 mol %) of diphenylphosphinoferrocenepalladium dichloride (PdCl2dppf) in 15 ml of dimethylformamide. The mixture is stirred for 3 hours at 90° C. The reaction is stopped by addition of 50 mL of water and then extracted with ethyl acetate. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated off and the residue is then chromatographed on silica gel (70/30 heptane/ethyl acetate). 2.5 g of 3-heptyl-1-methyl-1-[3-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]urea in oil form are obtained. Yield=64%

reactant | pinacol diborane | 15.5 mmol, 4.0 g, 1.5 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 1-(3-bromophenyl)-3-heptyl-1-methylurea | 10 mmol, 3.4 g, 1 eq | BrC=1C=C(C=CC1)N(C(=O)NCCCCCCC)C | C15H23BrN2O
reactant | potassium acetate | 31 mmol, 3.0 g, 3 eq | C(C)(=O)[O-].[K+]
reactant | water | 50 mL | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-heptyl-1-methyl-1-[3-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]urea | 2.5 g, Yield=64% | C(CCCCCC)NC(N(C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C21H35BN2O3
